US05780473
B. N-(4,5-Dimethyl-3-isoxazolyl)-2'-[(3,3-dimethyl-2-oxo-1-pyrrolidinyl)methyl]-4'-(2-pyrimidinyl)[1,1'-biphenyl]-2-sulfonamide
To the solution of N-(4,5-dimethyl-3-isoxazolyl)-2'-[(3,3-dimethyl-2-oxo-1-pyrrolidinyl)methyl]-N-[(2-methoxyethoxy)methyl]-4'-(2-pyrimidinyl)[1,1'-biphenyl]-2-sulfonamide in 5.1 ml of CH3CN, trimethylsilyl chloride ("Me3SiCl", 166 mg, 1.53 mmol) was added, followed by NaI (229 mg, 1.53 mmol). The mixture was stirred at room temperature for 1 hr. Additional Me3SiCl (166 mg, 1.53 mmol) and NaI (229 mg, 1.53 mmol) were added in three portions and the reaction was stirred for an additional 1 hr and 20 minutes. The reaction mixture was then added to 5 ml H2O and 30 ml EtOAc. The organic layer was separated and washed with 2 ml saturated aqueous sodium thiosulfate, brine, dried and concentrated. The residue was purified by preparative HPLC on an ODS S10 column using 32% solvent A (10% MeOH, 90% H2O, 0.1% TFA) and 68% solvent B (90% MeOH, 10% H2O, 0.1% TFA) to provide the title compound of this Example (29 mg, 21% for two steps) as a white solid, m.p. 125°-132° C. (amorphous).

reactant | N-(4,5-dimethyl-3-isoxazolyl)-2'-[(3,3-dimethyl-2-oxo-1-pyrrolidinyl)methyl]-N-[(2-methoxyethoxy)methyl]-4'-(2-pyrimidinyl)[1,1'-biphenyl]-2-sulfonamide | CC=1C(=NOC1C)N(S(=O)(=O)C=1C(=CC=CC1)C1=C(C=C(C=C1)C1=NC=CC=N1)CN1C(C(CC1)(C)C)=O)COCCOC | C32H37N5O6S
reactant | trimethylsilyl chloride | 1.53 mmol, 166 mg | C[Si](C)(C)Cl | C3H9ClSi
reactant | NaI | 1.53 mmol, 229 mg | [Na+].[I-]
reactant | Me3SiCl | 1.53 mmol, 166 mg | [Si](C)(C)(C)Cl | C3H9ClSi
reactant | NaI | 1.53 mmol, 229 mg | [Na+].[I-]
reactant | H2O | 5 ml | O | H2O
solvent | CH3CN | 5.1 ml | CC#N | C2H3N
solvent | EtOAc | 30 ml | CCOC(=O)C | C4H8O2
product | N-(4,5-Dimethyl-3-isoxazolyl)-2'-[(3,3-dimethyl-2-oxo-1-pyrrolidinyl)methyl]-4'-(2-pyrimidinyl)[1,1'-biphenyl]-2-sulfonamide | CC=1C(=NOC1C)NS(=O)(=O)C=1C(=CC=CC1)C1=C(C=C(C=C1)C1=NC=CC=N1)CN1C(C(CC1)(C)C)=O | C28H29N5O4S
